US08114868B2
To a solution of (R)-6-allyl-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one (90 mg, 0.23 mmol) in tetrahydrofuran (10 mL) was added BH3 THF (3.0 mL, I mol/L, 4 mmol) at 0° C. under nitrogen atmosphere. The formed mixture was stirred for 2 h. The reaction was quenched by water. Then NaOH (2 mL, 3 mol/L) and H2O2 (1 mL) was added to the above mixture. When the reaction was over, the mixture was extracted with EtOAc. The combined organic phase was concentrated to give the crude product, which was purified by preparative HPLC to give (R)-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-3-hydroxypropyl)-6-phenyl -1,3-oxazinan-2-one (40 mg, 41%).

reactant | (R)-6-allyl-3-((S)-1-(4-(6-aminopyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 0.23 mmol, 90 mg | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C=1C=NC(=CC1)N)C1=CC=CC=C1 | C26H27N3O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | THF | 4 mmol, 3.0 mL | C1CCOC1 | C4H8O
product | 6-phenyl -1,3-oxazinan-2-one | 40 mg, 41% | C1(=CC=CC=C1)C1CCNC(O1)=O | C10H11NO2
